US05698696
Boron tribromide (0.42 mL of 1M solution in dichloromethane, 0.42 mmol) is added dropwise at -78° C. and under nitrogen to a solution of 5-methoxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-carboxylic acid (100 mg, 0.38 mmol) in dichloromethane (4 mL). The reaction mixture is allowed to warm to room temperature and stirred overnight. The reaction is quenched by addition of water (10 mL) and extracted with dichloromethane (2×20 mL). The organic phase is dried (magnesium sulfate) and evaporated to dryness to give 90 mg (95%) of 5-hydroxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-carboxylic acid as a white solid. A sample is recrystallized in heptane/ethyl acetate, mp=182°-184° C.

reactant | Boron tribromide | 0.42 mmol, 1M, 0.42 mL | B(Br)(Br)Br | BBr3
reactant | 5-methoxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-carboxylic acid | 0.38 mmol, 100 mg | COC=1C(=C(C2=C(C(C(O2)(C)C)C(=O)O)C1C)C)C | C15H20O4
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 5-hydroxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-carboxylic acid | 90 mg, 95% | OC=1C(=C(C2=C(C(C(O2)(C)C)C(=O)O)C1C)C)C | C14H18O4
